US07141586B2
trans-N-{4-[(5-Chloropentanoyl)amino]cyclohexyl}-5-fluoro-2-[3-(methylsulfanyl)phenoxy]nicotinamide
N-(trans-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride (400 mg, 1.065 mmol) was dissolved in dichloromethane (6 ml) and triethylamine (445 μl, 3.20 mmol) was added followed by dropwise addition of 5-chlorovaleryl chloride (151 μl, 1.172 mmol). The reaction was stirred under nitrogen at room temperature for 4 h. The reaction mixture was quenched with sat. sodium hydrogen carbonate solution (10 ml) and extracted with dichloromethane (3×15 ml). The combined organic extracts were dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by column chromatography, eluting with 95:5 dichloromethane/methanol, clean fractions were combined and the solvent was removed under reduced pressure to obtain the title compound (220 mg) as a white solid.

reactant | N-(trans-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride | 1.065 mmol, 400 mg | Cl.N[C@@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 3.20 mmol, 445 μl | C(C)N(CC)CC | C6H15N
reactant | 5-chlorovaleryl chloride | 1.172 mmol, 151 μl | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | trans-N-{4-[(5-Chloropentanoyl)amino]cyclohexyl}-5-fluoro-2-[3-(methylsulfanyl)phenoxy]nicotinamide | 220 mg | ClCCCCC(=O)N[C@@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O | C24H29ClFN3O3S
